### PR TITLE
List validators.

### PR DESCRIPTION
**Pull request by mcalancea**
Initial definitions for Minimal List Validators.
Some utility definitions and useful results involving them.
Started work on VLSM-equivocation instantiation.

### CODE REVIEW

File: VLSM/ListNode.v [hunk 1]
```diff
@@ -0,0 +1,2570 @@
...
+           (depth (last_recorded index_listing is i)))).
+        specialize (H eq_refl Hin).
+        assumption.
+    Qed.
+
+    Lemma new_projection_implies_output_message
+      (l : label)
+      (som som' : (state * option message))
+      (Hprotocol : protocol_transition preX l som som')
+      (s' : state)
```
Comment (traiansf) [inline VLSM/ListNode.v:1173]: Here you can probably use `s' := project (fst som') index_self` instead of Hnew.  But maybe it works better as it it.

Comment (traiansf) [reply VLSM/ListNode.v:1173]: same for lemma below.

File: VLSM/ListNode.v [hunk 2]
```diff
@@ -0,0 +1,2570 @@
...
+
+    Lemma project_all_bottom
+      (i : index) :
+      project_indexed index_listing all_bottom i = Bottom.
+
+    Proof.
+      apply project_all_bottom_f.
+    Qed.
+
+    Lemma some_project
```
Comment (traiansf) [inline VLSM/ListNode.v:1308]: This seems like an important lemma. maybe give it a better name and some documentation?

**Review by traiansf — APPROVED** [review]
I wonder whether it would be a good idea to split ListNode into multiple files as we've done for the FullNode Client and Validators, with state being separate, and maybe equivocation properties being separate as well.

File: VLSM/ListNode.v (hunk 1 above)
Comment (mcalancea) [reply VLSM/ListNode.v]: I'll keep this in mind for the future, but I don't think it's worth refactoring in this particular instance.

File: VLSM/ListNode.v (hunk 2 above)
Comment (mcalancea) [reply VLSM/ListNode.v]: Agreed.
